US05990136
Step 3 Preparation of tert-Butyl 4-[4-[5-[(acetylamino)methyl]-4,5-dihydro-3-isoxazolyl]phenyl]-3,6-dihydro-1(2H)-pyridinecarboxylate.
To a flame dried flask containing a pre-stirred slurry of 1-methyl-2-pyrrolidinone (15 mL), tris(dibenzylideneacetone)dipalladium (30 mg, 0.03 mmol), triphenylarsine (4 mg, 0.12 mmol) under an inert atmosphere is added N-[[4,5-dihydro-3-[4-(trimethylstannyl)phenyl]-5-isoxazolyl]methyl]acetamide (580 mg, 1.52 mmol) and 3,6-dihydro-4-[[(trifluoromethyl)sulfonyl]oxy]-1(2H)-pyridinecarboxylic acid 1,1-dimethylethyl ester (450 mg, 1.37 mmol) and stirred for 12 hours. The reaction is diluted with ethyl acetate (100 mL) and water (50 mL). The organic phase is separated, extracted with water (5×50 mL), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with methylene chloride/methanol (99/1). The appropriate fractions are combined (Rf =0.28, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, mp 117-120° C.

reactant | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
reactant | triphenylarsine | 0.12 mmol, 4 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | N-[[4,5-dihydro-3-[4-(trimethylstannyl)phenyl]-5-isoxazolyl]methyl]acetamide | 1.52 mmol, 580 mg | C[Sn](C1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O)(C)C
reactant | 3,6-dihydro-4-[[(trifluoromethyl)sulfonyl]oxy]-1(2H)-pyridinecarboxylic acid 1,1-dimethylethyl ester | 1.37 mmol, 450 mg | CC(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.03 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-Butyl 4-[4-[5-[(acetylamino)methyl]-4,5-dihydro-3-isoxazolyl]phenyl]-3,6-dihydro-1(2H)-pyridinecarboxylate | C(C)(=O)NCC1CC(=NO1)C1=CC=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C22H29N3O4
